US08461164B2
{2-[4-(6-Fluoropyridin-2-yloxy)-phenyl]-ethyl}-pteridin-4-ylamine (200 mg, 0.55 mmol) was dissolved in 4 mL dry DMSO and treated with sodium methoxide (300 mg, 5.5 mmol, 10 eq) and stirred for 20 h at 25° C. The mixture was poured into H2O (15 mL) and extracted with CH2Cl2 (2×25 ml). The pooled CH2Cl2 extracts were washed with H2O and brine, dried (Na2SO4), filtered, and evaporated. The gummy residue was dissolved in a minimum quantity of CH2Cl2 and treated with hexane to precipitate the product as a solid that was collected by suction filtration, washed with hexane and dried in vacuo to afford {2-[4-(6-methoxypyridin-2-yloxy)-phenyl]-ethyl}-pteridin-4-yl-amine (139 mg) as a tan solid: mp 152-153° C.; 1H NMR (DMSO-d6) δ 9.09 (s, 1H), 9.00 (t, J=5.9 Hz, 1H), 8.82 (s, 1H), 8.63 (s, 1H), 7.70 (t, J=8.0 Hz, 1H), 7.30 (d, J=8.3 Hz, 2H), 7.05 (d, J=8.4 Hz, 2H), 6.51 (d, J=8.0 Hz, 2H), 6.36 (d, J=7.7 Hz, 2H), 3.83 (m, 2H), 3.65 (s, 3H), 3.00 (m, 2H); ESIMS m/z 375 ([M+H]+).

reactant | {2-[4-(6-Fluoropyridin-2-yloxy)-phenyl]-ethyl}-pteridin-4-ylamine | 0.55 mmol, 200 mg | FC1=CC=CC(=N1)OC1=CC=C(C=C1)CCNC1=NC=NC2=NC=CN=C12 | C19H15FN6O
reactant | sodium methoxide | 5.5 mmol, 300 mg, 10 eq | C[O-].[Na+]
reactant | H2O | 15 mL | O | H2O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | {2-[4-(6-methoxypyridin-2-yloxy)-phenyl]-ethyl}-pteridin-4-yl-amine | 139 mg | COC1=CC=CC(=N1)OC1=CC=C(C=C1)CCNC1=NC=NC2=NC=CN=C12 | C20H18N6O2
